US04870074
Preparation of 2-benzylamino-5-nitrobenzoic acid
A solution of 2-chloro-5-nitrobenzoic acid (5.0 g) and benzylamine (15.0 g) in ethanol (40 ml) is refluxed for 10 hours and then concentrated under reduced pressure. To the residue is added water (100 ml), and the resulting solution is adjusted to the pH of about 4 with acetic acid and stirred for 1 hour. The precipitate is collected and recrystallized from ethanol to give the title compound (4.8 g), mp 238°-248° C.

reactant | 2-chloro-5-nitrobenzoic acid | 5.0 g | ClC1=C(C(=O)O)C=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | benzylamine | 15.0 g | C(C1=CC=CC=C1)N | C7H9N
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 2-benzylamino-5-nitrobenzoic acid | 4.8 g | C(C1=CC=CC=C1)NC1=C(C(=O)O)C=C(C=C1)[N+](=O)[O-] | C14H12N2O4
